US04242510
EXAMPLE 17: 7-[2-(2,3-Dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-methyl-3-cephem-4-carboxylic acid (syn isomer)
2-(2,3-Dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetic acid (syn isomer, 1.15 g.) was allowed to react with 7-amino-3-methyl-3-cephem-4-carboxylic acid (1.07 g.) in a similar manner to that of Example 1 to give the captioned compound (0.8 g.), pale yellow powder.

reactant | 2-(2,3-Dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetic acid | 1.15 g | S1CCSC(=C1)C(C(=O)O)=NOC | C7H9NO3S2
reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 1.07 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
product | 7-[2-(2,3-Dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-methyl-3-cephem-4-carboxylic acid | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)=NOC | C15H17N3O5S3
